US06610688B2
A mixture of 3,3-dibromo-4-chloro-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (0.745 g, 2.3 mmol), zinc dust (1.49 g, 23 mmol), acetic acid (10 mL) and methanol (10 mL) was stirred at room temperature for 2 hours. The reaction mixture was then diluted with brine and extracted with ethyl acetate. The organic layer was further washed with brine, dried over anhydrous sodium sulfate, concentrated and dried in a vacuum oven to give 0.3 g (78%) of 4-chloro-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one as a tan solid. 1H NMR (360 MHz, DMSO-d6) δ 11.21 (s, br, NH), 8.01 (d, J=5.66 Hz, 1H), 7.23 (d, J=5.66 Hz, 1H), and 3.59 (s, 2H, CH,). MS m/e 168 [M+].

reactant | 3,3-dibromo-4-chloro-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 2.3 mmol, 0.745 g | BrC1(C(NC2=NC=CC(=C21)Cl)=O)Br | C7H3Br2ClN2O
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | methanol | 10 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
catalyst | zinc | 23 mmol, 1.49 g | [Zn] | Zn
product | 4-chloro-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 0.3 g, 78% | ClC1=C2C(=NC=C1)NC(C2)=O | C7H5ClN2O
